US07229999B2
5-(4-Chloro-phenyl)-6-(1-methyl-1H-imidazol-2-ylmethoxy)-nicotinic acid methyl ester
5-Bromo-6-(1-methyl-1H-imidazol-2-ylmethoxy)-nicotinic acid methyl ester (0.35 g, 1.1 mmol) was dissolved in toluene (6 mL). To this solution was added (4-chloro-phenyl)-boronic acid (0.17 g, 1.1 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloro-methane complex (43 mg), and 2 N sodium carbonate solution (2 mL). The whole mixture was heated with stirring at 90° C. for 18 h, cooled to room temperature and eluted with ethyl acetate over 10 g ChemElut (Varian). The solvent was evaporated and the residue was purified by column chromatography on silica (n-heptane/ethyl acetate gradient) to yield 0.29 g of the title compound as an off-white solid, MS (ISP) 358.1 (M+H)+.

reactant | 5-Bromo-6-(1-methyl-1H-imidazol-2-ylmethoxy)-nicotinic acid methyl ester | 1.1 mmol, 0.35 g | COC(C1=CN=C(C(=C1)Br)OCC=1N(C=CN1)C)=O | C12H12BrN3O3
reactant | (4-chloro-phenyl)-boronic acid | 1.1 mmol, 0.17 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2 N, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Chloro-phenyl)-6-(1-methyl-1H-imidazol-2-ylmethoxy)-nicotinic acid methyl ester | 0.29 g | COC(C1=CN=C(C(=C1)C1=CC=C(C=C1)Cl)OCC=1N(C=CN1)C)=O | C18H16ClN3O3
